US09315463B2
Methyl 9-methyl-9H-xanthene-9-carboxylate
3.25 g (13.53 mmol) of methyl 9H-xanthene-9-carboxylate are dissolved in 70 ml THF, the solution is cooled with an ice bath and 10.15 ml (20.29 mmol) of a 2M solution of LDA are added drop wise whilst keeping the temperature at 0° C. After stirring at room temperature for 1 hr, 1.68 ml (27.06 mmol) of iodomethane are added drop wise and the system is stirred at rt overnight. The solution is poured over excess of saturated solution of ammonium chloride and is extracted thrice with ethyl ether. After washing with brine, the solution is dried and concentrated to give a reddish residue which is purified by column chromatography (Cl3CH/hexane from 1:3 to 1:1) to give 2.6 g of the title compound (75% yield) as a white solid.

reactant | methyl 9H-xanthene-9-carboxylate | 13.53 mmol, 3.25 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)OC | C15H12O3
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | iodomethane | 27.06 mmol, 1.68 ml | IC | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | Methyl 9-methyl-9H-xanthene-9-carboxylate | 2.6 g, 75% yield | CC1(C2=CC=CC=C2OC=2C=CC=CC12)C(=O)OC | C16H14O3
